US08609653B2
2-(tert-butoxy)-2-(1-(6-chloro-2,3-difluorobenzyl)-6-methyl-4-(p-tolyl)-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid
The title compound was prepared from methyl 2-(tert-butoxy)-2-(6-methyl-4-(p-tolyl)-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate and 2-(bromomethyl)-1-chloro-3,4-difluorobenzene in a manner similar to that described in Example 25 as a yellow solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm=7.68-7.62 (m, 1 H), 7.44-7.39 (m, 1 H), 7.35 (d, J=7.8 Hz, 2 H), 7.31-7.25 (m, 1 H), 7.12 (d, J=3.5 Hz, 1 H), 6.96 (dd, J=8.4, 10.5 Hz, 1 H), 6.29 (d, J=3.5 Hz, 1 H), 5.64-5.52 (m, 3 H), 2.75 (s, 3 H), 2.48 (s, 3 H), 0.96 (s, 9 H); LCMS (m/z) ES+=513 (M+1).

reactant | methyl 2-(tert-butoxy)-2-(6-methyl-4-(p-tolyl)-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate | C(C)(C)(C)OC(C(=O)OC)C=1C(=C2C(=NC1C)NC=C2)C2=CC=C(C=C2)C | C22H26N2O3
reactant | 2-(bromomethyl)-1-chloro-3,4-difluorobenzene | BrCC1=C(C=CC(=C1F)F)Cl | C7H4BrClF2
product | 2-(tert-butoxy)-2-(1-(6-chloro-2,3-difluorobenzyl)-6-methyl-4-(p-tolyl)-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid | C(C)(C)(C)OC(C(=O)O)C=1C(=C2C(=NC1C)N(C=C2)CC2=C(C(=CC=C2Cl)F)F)C2=CC=C(C=C2)C | C28H27ClF2N2O3
